US08030302B2
Ethyl 2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
A mixture of 1-(4-fluorophenyl)-2-methylhydrazine (0.6 g, 4.28 mmol), diethyl 2-acetylmalonate (0.96 g, 4.75 mmol), and acetic acid (0.51 g, 8.49 mmol) in water (15 mL) is heated at 115° C. for 3 hours. The reaction is cooled and extracted with EtOAc twice. The organic phase is washed with saturated aqueous sodium chloride, dried over Na2SO4 and concentrated. The residue is purified by column chromatography on silica gel, eluting with DCM:MeOH (from 150:1 to 60:1) to afford the title compound (0.59 g, 49.5% yield). MS (m/z): 279 (M+H).

reactant | 1-(4-fluorophenyl)-2-methylhydrazine | 4.28 mmol, 0.6 g | FC1=CC=C(C=C1)NNC | C7H9FN2
reactant | diethyl 2-acetylmalonate | 4.75 mmol, 0.96 g | C(C)(=O)C(C(=O)OCC)C(=O)OCC | C9H14O5
reactant | acetic acid | 8.49 mmol, 0.51 g | C(C)(=O)O | C2H4O2
reactant | MeOH | CO | CH4O
solvent | water | 15 mL | O | H2O
product | Ethyl 2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 0.59 g, 49.5% yield | FC1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)OCC)C)C | C14H15FN2O3
